US08859549B2
4-(4-benzylpiperazin-1-yl)phthalazin-1(2H)-one
4-Chlorophthalazin-1-one and 1-benzylpiperazine were processed using a method similar to that described in Example 1A to afford the title compound. MS (APCI+) M/Z 321 (M+H)+.

reactant | 4-Chlorophthalazin-1-one | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | 1-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 4-(4-benzylpiperazin-1-yl)phthalazin-1(2H)-one | C(C1=CC=CC=C1)N1CCN(CC1)C1=NNC(C2=CC=CC=C12)=O | C19H20N4O
